US07232821B2
2{2-[5-Trifluoromethyl-2-(2,4-difluorobenzyloxy)phenyl]cyclopent-1-enyl}-pyridine-4-carboxylic acid ethyl ester
Prepared by general procedure B(iii) but using [5-trifluoromethyl-2-(2,4-diflurobenzyloxy)phenyl]boronic acid instead of (5-chloro-2-benzyloxyphenyl)-boronic acid and 2-(bromocyclopent-1-enyl)pyridine-4-carboxylic acid ethyl ester instead of 3-(2-bromo-cyclopent-1-enyl)-6-methyl benzoic acid ethyl ester

reactant | [5-trifluoromethyl-2-(2,4-diflurobenzyloxy)phenyl]boronic acid | FC(C=1C=CC(=C(C1)B(O)O)OCC1=C(C=C(C=C1)F)F)(F)F | C14H10BF5O3
reactant | 2-(bromocyclopent-1-enyl)pyridine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=NC=C1)C1=C(CCC1)Br | C13H14BrNO2
product | 2{2-[5-Trifluoromethyl-2-(2,4-difluorobenzyloxy)phenyl]cyclopent-1-enyl}-pyridine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=NC=C1)C1=C(CCC1)C1=C(C=CC(=C1)C(F)(F)F)OCC1=C(C=C(C=C1)F)F | C27H22F5NO3
